Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
tetracycline
 
Attending: ___
 
Chief Complaint:
Asymptomatic with coronary artery disease
 
Major Surgical or Invasive Procedure:
___ Urgent coronary artery bypass graft x3, left internal 
mammary artery to left anterior descending artery and saphenous 
vein grafts to obtuse marginal and posterior descending arteries
 
History of Present Illness:
___ year old male that presented for elective cardiac 
catheterization at ___ after he had positive 
nuclear stress test. He initially been seen in primary ___ 
office when they noted an arryhtmia, he states he only got 
lightheaded with getting anxious about the arrythmia. He had 
holter completed that found NSVT for which he underwent stress 
test. The cardiac catheterization revealed significant coronary 
artery disease and he was transferred for surgical evaluation.
 
Past Medical History:
Hypertension 
Hypopituitarism 
Anemia Iron deficient recently started on iron
Diverticulitis (found on colonscopy ___
Glaucoma 
Cataracts with loss of vision left eye 
Hx Right eye retinal hemorrhage 
Hx of fall with brain contusion denies bleed or stroke
___ benign growth removed from pituitary received radiation 
treatment
 
Social History:
___
Family History:
Father MI deceased ___
Sister breast cancer 
Mother dementia deceased ___
 
Physical Exam:
Pulse: 67  Resp: 16 O2 sat: 100%
B/P  ___  

General: well nourished no acute distress
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur  none  
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds 
+ [x] no palpable masses 
Extremities: Warm [x], well-perfused [x]  Edema none
Varicosities: None [x]
Neuro: Grossly intact [x] noted for variance right leg 
musculature larger than left verbalizes baseline 
Pulses:
Femoral      Right: +1  Left: +1
DP           Right: +1  Left: +1
___           Right: +1  Left: +1
Radial       Right: cath site  Left: +2

Carotid Bruit        ? bruit 
 
Pertinent Results:
___ Carotid U/S: Mild to moderate carotid plaque burden, 
greater on the right. Less than 40% stenosis of bilateral 
internal carotid arteries.
.
___ Echo: Pre Bypass: The left ventricular cavity is mildly 
dilated. There is mild regional left ventricular systolic 
dysfunction with basal and mid basal inferior hypokiensis. There 
are complex (>4mm) atheroma in the aortic arch and the 
descending thoracic aorta. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve leaflets are 
structurally normal. Mild (1+) mitral regurgitation is seen. 
Post Bypass: Biventricular function at mid inferior wall 
improved, but basal inferior wall now appears dyskinetic. LVEF 
45-50%. MR remains mild. Remaining exam is unchanged. Aortic 
contours intact. All findings discussed with surgeons at the 
time of the exam. 
___ 08:05AM BLOOD WBC-12.3* RBC-3.55* Hgb-10.4* Hct-31.7* 
MCV-89 MCH-29.2 MCHC-32.7 RDW-14.7 Plt ___
___ 09:18PM BLOOD WBC-7.0 RBC-3.89* Hgb-11.4* Hct-34.1* 
MCV-88 MCH-29.3 MCHC-33.5 RDW-13.5 Plt ___
___ 08:05AM BLOOD ___
___ 08:05AM BLOOD Glucose-91 UreaN-16 Creat-1.0 Na-133 
K-4.3 Cl-96 HCO3-28 AnGap-13
___ 09:18PM BLOOD Glucose-129* UreaN-19 Creat-1.2 Na-138 
K-3.8 Cl-99 HCO3-30 AnGap-13
 
Brief Hospital Course:
Mr. ___ was transferred to ___ following a cardiac cath at 
outside hospital which revealed severe three vessel coronary 
artery disease. Please see operative note for surgical details. 
Following surgery he was transferred to the CVICU for invasive 
monitoring in stable condition. Later this day he was weaned 
from sedation, awoke neurologically intact and extubated. On 
post-op day one he was started on beta-blockers and diuretics 
and gently diuresed towards his pre-op weight. Later this day he 
was transferred to the telemetry floor for further ___. Chest 
tubes and epicardial pacing wires were removed per protocol. 
Physical therapy assisted patient during post-op period for 
strength and mobility.  He developed post-op AFib and converted 
to SR with Lopressor and Amiodarone.  Coumadin was not 
initiated, as the patient is deemed a fall risk.The remainder of 
his hospital course was essentially uneventful. He slowly 
progressed. By the time of pod#8 he was ambulating, wound 
healing and pain controlled. He was discharged to home with ___ 
services. All follow up appointments were advised. 
 
Medications on Admission:
Atenolol 25 mg daily 
Ferrous Sulfate 325 mg BID 
HCTZ 25 mg daily 
Levothyroxine 150 mcg daily 
Simvastatin 40 mg daily 
Testosterone 100 mg 100 mg IM 
Valsartan 160 mg daily 
Vitamin D 1200 daily 
Latanoprost 0.005% 1 gtt each eye qhs 
Hydrocortisone 10 mg BID 
Alphagan 0.1% 1 gtt ___ BID 
Omeprzole 20 mg daily stopped taking 
Aspirin 81 mg daily 
Plavix - last dose: none 
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain 
2. Alphagan P (brimonidine) 1 DROP BOTH EYES BID 
3. Amiodarone 400 mg PO BID 
___ x7 days,decrease to 200 mg BID x 7 ays, decrease to 200 mg 
daily until reeval by Cardiologist 
RX *amiodarone 200 mg 2 tablet(s) by mouth BID x 7 days , then 
Disp #*60 Tablet Refills:*1
4. Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*1
5. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1
6. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1
7. Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*1
8. Hydrocortisone 10 mg PO BID 
9. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
10. Levothyroxine Sodium 150 mcg PO DAILY 
11. Metoprolol Tartrate 75 mg PO TID 
RX *metoprolol tartrate 50 mg 1.5 tablet(s) by mouth three times 
a day Disp #*135 Tablet Refills:*1
12. Omeprazole 20 mg PO DAILY 
13. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4h prn Disp #*50 
Tablet Refills:*0
14. Sodium Chloride Nasal ___ SPRY NU QID:PRN dry nares 
RX *sodium chloride 0.65 % ___ sprays nasal QID prn Disp #*1 
Spray Refills:*0
15. Valsartan 160 mg PO DAILY 
RX *valsartan 160 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1
16. Furosemide 20 mg PO DAILY Duration: 10 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*10 Tablet 
Refills:*0

 
Discharge Disposition:
Home with Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary artery bypass graft x 3
Past medical histroy:
Hypertension 
Hypopituitarism 
Anemia Iron deficient recently started on iron
Diverticulitis (found on colonscopy ___
Glaucoma 
Cataracts with loss of vision left eye 
Hx Right eye retinal hemorrhage 
Hx of fall with brain contusion denies bleed or stroke
___ benign growth removed from pituitary received radiation 
treatment
 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesia
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage.
Trace Edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___